* C:\School Work\ECED3201\lab2\ltspice\Lab2Part3.asc
V1 Vin 0 3 AC 0.01 0
R1 Vout Vin 100k
L1 0 Vout 10µ
D1 N001 Vout 1N4148
V2 0 N001 {VR}
.model D D
.lib C:\Users\Ashton Dudley\AppData\Local\LTspice\lib\cmp\standard.dio
.step param VR 0 1 .1
.ac dec 2000 10Meg 100Meg
.backanno
.end
